US06147098
N-Cyano-N'-cyclopentyl-N"-(3,5-dichlorophenyl)guanidine
To a solution of N-(3,5-dichlorophenyl)-N'-cyano-O-phenylisourea (0.8 mmol, 250 mg) in dry acetonitrile (2 ml), cyclopentylamine (0.9 mmol, 0.089 ml) and triethylamine (0.125 ml) were added. The mixture was stirred for 21/2 h at 82° C. under nitrogen. After concentration the residue was purified by flash chromatography (ethyl acetate/heptane 1:2) to give the title compound (160 mg, 66%) as crystals. Mp 147.5-148.5° C.; 1H-NMR (CDCl3): δ 1.45 (m, 2H), 1.65 (m, 4H), 2.05 (m, 2H), 4.11 (sextet, 1H), 5.1 (br, 1H), 7.2 (m, 3H), 8.02 ppm (br, 1H); EI SP/MS: 296 (M+), 298 (M+2), 300 (M+4). MA calc for C13H14Cl2N4 : C, 52.54%; H, 4.75%; N, 18.85%. Found: C, 52.17%; H, 4.71%; N, 18.50%.

reactant | N-(3,5-dichlorophenyl)-N'-cyano-O-phenylisourea | 0.8 mmol, 250 mg | ClC=1C=C(C=C(C1)Cl)NC(OC1=CC=CC=C1)=NC#N | C14H9Cl2N3O
reactant | cyclopentylamine | 0.9 mmol, 0.089 ml | C1(CCCC1)N | C5H11N
reactant | triethylamine | 0.125 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-Cyano-N'-cyclopentyl-N"-(3,5-dichlorophenyl)guanidine | 160 mg, 66% | C(#N)NC(=NC1=CC(=CC(=C1)Cl)Cl)NC1CCCC1 | C13H14Cl2N4
